US08084448B2
E. 5-[2-Benzyloxy-4-(2-hydroxy-5-methylbenzyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
A solution of 5-{2-benzyloxy-4-[2-(4-methoxybenzyloxy)-5-methylbenzyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (50 mg) in 10% TFA/methylene chloride (1 mL) is stirred at RT for 2 h. The solvent is removed under reduced pressure to give the title compound.

reactant | 5-{2-benzyloxy-4-[2-(4-methoxybenzyloxy)-5-methylbenzyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 50 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=C(C=CC(=C1)C)OCC1=CC=C(C=C1)OC)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C36H42N2O6SSi
solvent | TFA methylene chloride | 1 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-[2-Benzyloxy-4-(2-hydroxy-5-methylbenzyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=C(C=CC(=C1)C)O)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C28H34N2O5SSi
